US07326699B2
To a solution of 41 mg (0.075 mmol) of trans-{3-[4-amino-5-(3-benzyloxy-phenyl)-pyrrolo[2,3-d]pyrimidin-7-yl]-cyclobutylmethyl}-3-(2-bromo-ethyl)-urea, which is prepared as described in Example 26 using 2-bromoethyl isocyanate (Aldrich, Buchs, Switzerland), in 5 ml of ethanol is added 33 μl (0.375 mmol) of morpholine. The mixture is refluxed for 3 h and the crude mixture is purified by medium-pressure liquid chromatography to provide trans-1-{3-[4-amino-5-(3-benzyloxy-phenyl)-pyrrolo[2,3-d]pyrimidin-7-yl]-cyclobutylmethyl}-3-(2-morpholin-4-yl-ethyl)-urea. Analytical HPLC: tR=6.12 min (Grad 2); ES-MS: m/eo=555.9.

reactant | trans-{3-[4-amino-5-(3-benzyloxy-phenyl)-pyrrolo[2,3-d]pyrimidin-7-yl]-cyclobutylmethyl}-3-(2-bromo-ethyl)-urea | 0.075 mmol, 41 mg | NC=1C2=C(N=CN1)N(C=C2C2=CC(=CC=C2)OCC2=CC=CC=C2)[C@@H]2C[C@H](C2)CNC(=O)NCCBr | C27H29BrN6O2
reactant | 2-bromoethyl isocyanate | BrCCN=C=O | C3H4BrNO
reactant | morpholine | 0.375 mmol, 33 μl | N1CCOCC1 | C4H9NO
solvent | ethanol | 5 ml | C(C)O | C2H6O
product | trans-1-{3-[4-amino-5-(3-benzyloxy-phenyl)-pyrrolo[2,3-d]pyrimidin-7-yl]-cyclobutylmethyl}-3-(2-morpholin-4-yl-ethyl)-urea | NC=1C2=C(N=CN1)N(C=C2C2=CC(=CC=C2)OCC2=CC=CC=C2)[C@@H]2C[C@H](C2)CNC(=O)NCCN2CCOCC2 | C31H37N7O3
